US06716851B2
4-(3-Methoxyanilino)-5-methoxy-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-5-methoxy-2-(2-pyridinyl)pyrimidine (100 mg, 0.451 mmol) and m-anisidine (51 μl, 0.451 mmol) similar to Example 13 and isolated as a tan oily liquid (63 mg, 45%). 1H NMR (CDCl3): 8.76-8.74 (m, 1H), 8.37 (dd, J=1.1, 8.0 Hz, 1H), 8.05 (s, 1H), 7.79-7.73 (m, 2H), 6.65-6.62 (m, 1H), 3.92 (s, 3H), 3.84 (s, 3H).

reactant | 4-chloro-5-methoxy-2-(2-pyridinyl)pyrimidine | 0.451 mmol, 100 mg | ClC1=NC(=NC=C1OC)C1=NC=CC=C1 | C10H8ClN3O
reactant | m-anisidine | 0.451 mmol, 51 μl | COC1=CC(=CC=C1)N | C7H9NO
product | 4-(3-Methoxyanilino)-5-methoxy-2-(2-pyridinyl)pyrimidine | COC=1C=C(NC2=NC(=NC=C2OC)C2=NC=CC=C2)C=CC1 | C17H16N4O2
